US06992087B2
6-cyclopropyl-5-[6-(dimethylamino)-4-methylpyridin-3-yl]-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3-ethylpyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine but substituting (1R,2S)-1-({6-cyclopropyl-5-[6-(dimethylamino)-4-methylpyridin-3-yl]-3-ethylpyrazin-2-yl}amino)-2,3-dihydro-1H-inden-2-ol and making non-critical variations provided the title compound as a solid: 1H NMR (CDCl3) δ 0.81-1.19, 1.28-1.33, 2.67-2.73, 3.11-3.14, 3.42-3.51, 3.65-3.73, 4.32-4.35, 5.40-5.42, 5.72-5.75, 6.497.22-7.39, 8.19; MS (ESI+) for C28H35N5O m/z 458 (M+H)+.

reactant | 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC | C25H27Cl2N3O
reactant | (1R,2S)-1-({6-cyclopropyl-5-[6-(dimethylamino)-4-methylpyridin-3-yl]-3-ethylpyrazin-2-yl}amino)-2,3-dihydro-1H-inden-2-ol | C1(CC1)C1=C(N=C(C(=N1)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC)C=1C=NC(=CC1C)N(C)C | C26H31N5O
product | 6-cyclopropyl-5-[6-(dimethylamino)-4-methylpyridin-3-yl]-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3-ethylpyrazin-2-amine | C1(CC1)C1=C(N=C(C(=N1)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC)C=1C=NC(=CC1C)N(C)C | C28H35N5O
